US05693655
HCl gas is passed into a boiling solution of 2.5 g of 3-[1-(4-(5-carboxyindol-3-yl)butyl)-4-piperidyl]-5-fluoroindole in 50 ml of absolute methanol for hours. The mixture is then boiled for a further hour, is worked up in a conventional manner and gives 3-[1-(4-(5-methoxycarbonylindol-3-yl)butyl)-4-piperidyl]-5-fluoroindole.

reactant | HCl | Cl | ClH
reactant | 3-[1-(4-(5-carboxyindol-3-yl)butyl)-4-piperidyl]-5-fluoroindole | 2.5 g | C(=O)(O)C=1C=C2C(=CNC2=CC1)CCCCN1CCC(CC1)C1=CNC2=CC=C(C=C12)F | C26H28FN3O2
reactant | methanol | 50 ml | CO | CH4O
product | 3-[1-(4-(5-methoxycarbonylindol-3-yl)butyl)-4-piperidyl]-5-fluoroindole | COC(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CCC(CC1)C1=CNC2=CC=C(C=C12)F | C27H30FN3O2
